US09193720B2
The potassium hydroxide (86 mg, 1.54 mmol) was added to a station (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (102 mg, 0.154 mmol) in ethanol (3 mL) and stirred for 12 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to give (S)-2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid 24.3 mg (25%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.40-7.37 (m, 2H), 7.24-7.22 (m, 2H), 7.18-7.12 (m, 4H), 7.10 (t, J=7.7 Hz, 2H), 6.99-6.92 (m, 3H), 5.77 (s, 1H), 4.21 (t, J=6.6 Hz, 2H), 3.47-3.37 (m, 4H), 3.06 (t, J=6.2 Hz, 2H), 2.46-2.44 (m, 2H), 2.42 (s, 3H), 2.01 (s, 3H), 1.66 (t, J=10.6 Hz, 1H), 1.44-1.41 (m, 1H), 1.34-1.22 (m, 3H), 1.09 (m, 9H). UPLC (M+H)=625.4.

reactant | potassium hydroxide | 1.54 mmol, 86 mg | [OH-].[K+]
reactant | (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.154 mmol, 102 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C(=NC(=C1C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C | C42H51FN2O4
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (S)-2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid | 24.3 mg, 25% | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C(=NC(=C1C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C)[C@@H](C(=O)O)OC(C)(C)C | C39H45FN2O4
